US04740513
1-(4-Amino-3-methylphenyl)-5-iodo-2,4-dimethylimidazole
Silver sulphate (21.8 g) and crushed iodine (35.5 g) were added portionwise to a stirred solution of 1-(4-amino-3-methylphenyl)-2,4-dimethylimidazole (25.4 g) in sulphuric acid (100 cm3) cooled to -10°. After heating at 55° C. for 2 hours, the cooled mixture was poured onto ice (500 g). The mixture was cautiously adjusted to pH8 by addition of concentrated ammonia solution (S.G. 0.880) and extracted with chloroform (2×500 cm3). The organic extracts were combined, filtered through "Arbocel" (silica) [Trade Mark], and washed with saturated sodium thiosulphate solution (200 cm3). The organic solution was dried (MgSO4) and evaporated in vacuo to give a residue which, on trituration with ether, gave the title compound (32.25 g) as a crude solid which was used without further purification in Preparation 22.

reactant | iodine | 35.5 g | II | I2
reactant | 1-(4-amino-3-methylphenyl)-2,4-dimethylimidazole | 25.4 g | NC1=C(C=C(C=C1)N1C(=NC(=C1)C)C)C | C12H15N3
reactant | ammonia | N | H3N
reactant | ether | CCOCC | C4H10O
solvent | sulphuric acid | 100 cm3 | S(O)(O)(=O)=O | H2O4S
catalyst | Silver sulphate | 21.8 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 1-(4-Amino-3-methylphenyl)-5-iodo-2,4-dimethylimidazole | 32.25 g | NC1=C(C=C(C=C1)N1C(=NC(=C1I)C)C)C | C12H14IN3
